US04482556
9,10-Dimethoxy-2-ethoxy-6,7-dihydro-4H-pyrimido(6,1-a)-isoquinolin-4-one
A mixture of 3.0 g of 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione and 15.0 g of triethyloxonium fluoroborate in 100 ml of dichloromethane is stirred overnight. The reaction mixture is washed with a solution of sodium carbonate. The organic layer is separated and dried over anhydrous sodium sulfate. Evaporation of the solvent gives the title compound, yield 1.8 g.

reactant | 9,10-dimethoxy-3,4,6,7-tetrahydro-2H-pyrimido(6,1-a)isoquinolin-2,4-dione | 3.0 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(NC3=O)=O | C14H14N2O4
reactant | triethyloxonium fluoroborate | 15.0 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 9,10-Dimethoxy-2-ethoxy-6,7-dihydro-4H-pyrimido(6,1-a)-isoquinolin-4-one | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)OCC | C16H18N2O4
